US05912246
6-Bromo-2-[[4-(4-fluorophenyl)-1-piperazinyl]methyl]-imidazo[1,2-a]pyridine. Refer to Chart E
Following the general procedure of Example 11 and making noncritical variations, 6-bromo-2-(chloromethyl)imidazo[1,2-a]pyridine (0.253 g), 1-(4-fluorophenyl)piperazine (Aldrich; 0.186 g), triethylamine (Aldrich; 0.104 g), and ethylene glycol (2 mL) give 0.249 g of the title compound after chromatography (silica gel, methanol/dichloromethane, 4/96) and crystallization from dichloromethane/hexane; mp 110-112° C.; MS m/z 388, 390; IR (mineral oil) 1511, 1234, 1219, 1448, 1326 cm-1. 1H NMR (CDCl3) δ2.74, 3.16, 3.77, 6.87-6.98, 7.21, 7.48, 7.53, 8.24.

reactant | 6-bromo-2-(chloromethyl)imidazo[1,2-a]pyridine | 0.253 g | BrC=1C=CC=2N(C1)C=C(N2)CCl | C8H6BrClN2
reactant | 1-(4-fluorophenyl)piperazine | 0.186 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | triethylamine | 0.104 g | C(C)N(CC)CC | C6H15N
solvent | ethylene glycol | 2 mL | C(CO)O | C2H6O2
product | 6-Bromo-2-[[4-(4-fluorophenyl)-1-piperazinyl]methyl]-imidazo[1,2-a]pyridine | 0.249 g | BrC=1C=CC=2N(C1)C=C(N2)CN2CCN(CC2)C2=CC=C(C=C2)F | C18H18BrFN4
